US08349833B2
4,5,6,7-tetrahydrothieno[3,2-c]pyridine hydrochloride (1.30 g, 7.19 mmol) was added to sodium hydroxide (1.38 g) in water (86 mL) and extracted with dichloromethane (3×20 mL). The dichloromethane was dried over sodium sulfate, filtered, and concentrated to prepare the free base (1.0 g). 4,5,6,7-Tetrahydrothieno[3,2-c]pyridine free base (1.0 g, 7.19 mmol) and 8-bromo-8-(2-chlorophenyl)2,2-dimethyloctanoic acid ethyl ester (2.8 g, 7.19 mmol) were dissolved in DMF (75 mL) with potassium carbonate (1.49 g, 10.79 mmol). The mixture was heated to 65-70° C. overnight. After 18 hours, the mixture was cooled to room temperature and water (50 mL) was added. The product was extracted with diethyl ether (3×50 mL). The combined organic extracts were washed with water (3×50 mL), dried over sodium sulfate, and concentrated under reduced pressure. The crude product was purified by column chromatography on silica gel, eluting with ethyl acetate/heptane (1/10) to provide 8-(2-chlorophenyl)-8-(6,7-dihydro-4H-thieno[3,2-c]pyridin-5-yl)-2,2-dimethyloctanoic acid ethyl ester (Compound In, 1.4 g, 43.5%) as a yellow oil. 1H NMR (Field: 300 MHz, Solvent: CDCl3/TMS) δ (ppm): 7.49 (dd, 1H, J=7.5, 1.5 Hz), 7.35 (dd, 1H, J=8.1, 1.2 Hz), 7.24 (dt, 1H, J=7.5, 1.0 Hz), 7.16 (dt, 1H, J=7.8, 1.5 Hz), 7.02 (d, 1H, J=5.0 Hz), 6.68 (d, 1H, J=5.0 Hz), 4.18 (dd, 1H, J=8.7, 4.2 Hz), 4.08 (q, 2H, J=6.9 Hz), 3.82 (d, 1H, J=14.1 Hz), 3.48 (d, 1H, J=14.1 Hz), 2.88-2.66 (m, 4H), 1.96-1.76 (m, 2H), 1.46-1.41 (m, 2H), 1.26-1.18 (m, 6H), 1.21 (t, 3H, J=6.9 Hz), 1.11 (s, 6H). 13C NMR (Field: 75 MHz, Solvent: CDCl3/TMS) δ (ppm): 177.92, 134.92, 134.21, 133.53, 129.48, 129.06, 127.94, 126.77, 125.44, 122.60, 63.67, 60.27, 50.73, 48.08, 42.29, 40.85, 33.02, 30.52, 26.13, 25.39, 25.01, 14.51. HRMS (FIA-ESI-TOFM): Calculated for C25H34ClNO2S (M+H)+: 448.2072, found 448.2067.

reactant | 4,5,6,7-tetrahydrothieno[3,2-c]pyridine hydrochloride | 7.19 mmol, 1.30 g | Cl.S1C=CC=2CNCCC21
reactant | sodium hydroxide | 1.38 g | [OH-].[Na+]
reactant | 4,5,6,7-Tetrahydrothieno[3,2-c]pyridine | 7.19 mmol, 1.0 g | S1C=CC=2CNCCC21 | C7H9NS
reactant | 8-bromo-8-(2-chlorophenyl)2,2-dimethyloctanoic acid ethyl ester | 7.19 mmol, 2.8 g | C(C)OC(C(CCCCCC(C1=C(C=CC=C1)Cl)Br)(C)C)=O | C18H26BrClO2
reactant | potassium carbonate | 10.79 mmol, 1.49 g | C([O-])([O-])=O.[K+].[K+]
solvent | water | 86 mL | O | H2O
solvent | DMF | 75 mL | CN(C)C=O | C3H7NO
solvent | water | 50 mL | O | H2O
product | 8-(2-chlorophenyl)-8-(6,7-dihydro-4H-thieno[3,2-c]pyridin-5-yl)-2,2-dimethyloctanoic acid ethyl ester | 1.4 g, 43.5% | C(C)OC(C(CCCCCC(N1CC2=C(CC1)SC=C2)C2=C(C=CC=C2)Cl)(C)C)=O | C25H34ClNO2S
